US08202885B2
5 g of 3-methoxy-2-methoxymethyl-2-methyl-propionic acid (prepared as in EP609058) were dissolved in 49 mL of DCM and 12 mL of THF. 11.4 mL of DIPEA, 5.84 g of HOBt, 7.07 g of EDCI and 5.45 g of 3,3-diethoxy-propylamine were added sequentially. The mixture was stirred for 23 h at rt, diluted with DCM and washed with sat. NaHCO3. The organic phase was dried over anh. Na2SO4 and concentrated in vacuo. The resulting crude material was purified by CC using heptane/EtOAc from 3/1 to 0/1 as eluant to yield 7.25 g of N-(3,3-diethoxy-propyl)-3-methoxy-2-methoxymethyl-2-methyl-propionamide as a yellowish oil.

reactant | 3-methoxy-2-methoxymethyl-2-methyl-propionic acid | 5 g | COCC(C(=O)O)(C)COC | C7H14O4
reactant | DIPEA | 11.4 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 5.84 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 7.07 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | 3,3-diethoxy-propylamine | 5.45 g | C(C)OC(CCN)OCC | C7H17NO2
solvent | DCM | 49 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | N-(3,3-diethoxy-propyl)-3-methoxy-2-methoxymethyl-2-methyl-propionamide | 7.25 g | C(C)OC(CCNC(C(COC)(C)COC)=O)OCC | C14H29NO5
